US07576063B2
3-Benzyloxy-5-[4-(N,N-dimethylamino)phenyl]-1-isopropyl-4-(4-methyoxybenzoyl)-1 H-pyrazole
A suspension of 3-benzyloxy-5-bromo-1-isopropyl-4-(4-methoxybenzoyl)-1H-pyrazole (0.11 g), 4-N,N-dimethylamino)-phenylboronic acid (0.061 g), tetrakis(triphenylphosphine)-palladium (0.034 g), potassium carbonate (0.078 g) and water (0.2 mL) in N,N-dimethylformamide (4 mL) was stirred at 80° C. for 12 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on aminopropylated silica gel (eluent:hexane/ethyl acetate=5/1) to give the title compound (0.098 g).

reactant | 3-benzyloxy-5-bromo-1-isopropyl-4-(4-methoxybenzoyl)-1H-pyrazole | 0.11 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C(C1=CC=C(C=C1)OC)=O)Br)C(C)C | C21H21BrN2O3
reactant | phenylboronic acid | 0.061 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 0.078 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.2 mL | O | H2O
reactant | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)-palladium | 0.034 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-Benzyloxy-5-[4-(N,N-dimethylamino)phenyl]-1-isopropyl-4-(4-methyoxybenzoyl)-1 H-pyrazole | 0.098 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C(C1=CC=C(C=C1)OC)=O)C1=CC=C(C=C1)N(C)C)C(C)C | C29H31N3O3
